US04492711
A mixture of 20 g of 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide and 8.8 g of dimethyl cyanodithioiminocarbonate in 150 ml of absolute ethanol is heated with reflux for 30 hours, then it is concentrated under reduced pressure and the crude oil thus obtained is poured on a silica column and eluted with a mixture chloroform:methanol 4:1. The fairly pure fractions are collected and the solvent is evaporated under reduced pressure. Thus, 6.5 g of 3-(3-cyano-2-methylisothioureido)-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide are obtained as an oil which is mixed with 10 ml of a 33% solution of methylamine in ethanol. The mixture thus obtained is left to stand 48 hours at room temperature, then the excess of methylamine is eliminated under reduced pressure. Thus 5 g of an oil are obtained which is submitted to a flash chromatography on silica by eluting with a mixture chloroform:ethanol 1:1. The pure fractions are collected and evaporated, the residue is crystallized twice from isopropanol. Thus, 2.5 g of 3-(2-cyano-3-methylguanidino)-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide are obtained; m.p. 140°-142° C.

reactant | 3-amino-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 20 g | NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1 | C17H23N3O2S
reactant | dimethyl cyanodithioiminocarbonate | 8.8 g | CSC(=NC#N)SC | C4H6N2S2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(3-cyano-2-methylisothioureido)-N-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]benzamide | 6.5 g | C(#N)N=C(NC=1C=C(C(=O)NCCSCC=2OC(=CC2)CN(C)C)C=CC1)SC | C20H25N5O2S2
